US07041665B2
Stage a) 1-(tert-Butyloxycarbonyl)-4-[4-chloro-(2-hydroxymethylphenylamino)] piperidine
A solution of 1-(tert-butyloxycarbonyl)-4-piperidinone (20 g, 0.10 mol), 2-amino-5-chlorobenzyl alcohol (17.34 g, 0.11 mol) and acetic acid (14 mL, 0.22 mol) in dry toluene (500 mL) was heated at reflux temperature, with water elimination by means of azeotrope distillation with a Dean-Stark device, for 6 hours. The mixture was then cooled and vacuum concentrated up to half volume. NaBH3CN (20 g, 0.32 mol) and dry THF (300 mL) were added to the resulting solution. Acetic acid (10 mL, 0.17 mol) was then dripped for one hour. The reaction was stirred at room temperature for 24 hours. The mixture was vacuum concentrated and the residue was dissolved in ethyl acetate (750 mL), washed with a NaHCO3-saturated solution (4×250 mL) and a NaCl-saturated solution (250 mL), dried and evaporated to dryness. The residue was purified by means of flash chromatography eluting with a mixture of ethyl acetate:petroleum ether (1:3). The desired product was thus obtained as an oil (32.7 g, 96%).

reactant | 1-(tert-butyloxycarbonyl)-4-piperidinone | 0.10 mol, 20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 2-amino-5-chlorobenzyl alcohol | 0.11 mol, 17.34 g | NC1=C(CO)C=C(C=C1)Cl | C7H8ClNO
reactant | acetic acid | 0.22 mol, 14 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.32 mol, 20 g | [BH3-]C#N.[Na+]
reactant | Acetic acid | 0.17 mol, 10 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1-(tert-Butyloxycarbonyl)-4-[4-chloro-(2-hydroxymethylphenylamino)] piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)Cl)CO | C17H25ClN2O3
